US08378104B2
1-(4-{4-[7-amino-2-(1H-pyrrolo[2,3-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone
A mixture of 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone (45 mg, 0.13 mmol), [1-(tert-butoxycarbonyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]boronic acid (65 mg, 0.26 mmol), Na2CO3 (55 mg, 0.52 mmol) and Pd(PPh3)4 (10 mg, 0.0087 mmol) in 4:1 dioxane:water (5 mL) was degassed with N2 for 1 min, and then heated to 120° C. in a microwave reactor for 30 min. The mixture was filtered and the filtrate was purified by preparative TLC (5:1 DCM:MeOH) to afford 16 mg (29%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 8.79 (s, 1H), 8.28-8.27 (m, 3H), 8.16 (s, 1H), 7.93 (s, 1H), 7.86 (s, 1H), 7.25 (s, 1H), 4.71-4.68 (m, 1H), 4.57-4.54 (m, 1H), 4.13-4.09 (m, 1H), 3.37 (m, 1H), 2.85 (m, 1H), 2.21 (m, 1H), 2.13 (s, 3H), 1.95 (m, 1H); MS (ESI): 442.1 [M+H]+; HPLC tR=2.08 min (ZQ3: polar—4 min).

reactant | 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | 0.13 mmol, 45 mg | NC=1N=CC(=C2C1OC(=C2)Cl)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C17H18ClN5O2
reactant | [1-(tert-butoxycarbonyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]boronic acid | 0.26 mmol, 65 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=CN=CC2)B(O)O | C12H15BN2O4
reactant | Na2CO3 | 0.52 mmol, 55 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0087 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-{4-[7-amino-2-(1H-pyrrolo[2,3-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone | 16 mg, 29% | NC=1N=CC(=C2C1OC(=C2)C2=CNC1=CN=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(C)=O | C24H23N7O2
